### PR TITLE
feat(RingTheory/MvPolynomial/Symmetric): basic API lemmas for Multiset.esymm

### PR DESCRIPTION
**Pull request by teorth**
Add basic lemmas for the elementary symmetric functions `Multiset.esymm`: `esymm_cons`, `esymm_zero`, `esymm_one`, `esymm_card`, `esymm_eq_zero_of_card_lt`, `two_mul_esymm_two`, and `esymm_map_inv` (with a private auxiliary). Also drop the redundant `@[simp]` on `esymm_pair_one`, which is now provable by `simp` from `esymm_one`.

---

The code here was prepared with AI assistance, but then golfed and reviewed by myself. It will be used in a forthcoming PR on the Newton and Maclaurin inequalities.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 1]
```diff
@@ -84,15 +83,58 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
...
     esymm (x ::ₘ {y}) 1 = x + y := by
-  simp [esymm, powersetCard_one, add_comm]
+  simp
 
 @[simp] lemma esymm_pair_two (x y : R) :
     esymm (x ::ₘ {y}) 2 = x * y := by
   simp [esymm, powersetCard_one]
 
+theorem two_mul_esymm_two {R : Type*} [CommRing R] (s : Multiset R) : 2 * s.esymm 2 =
+  s.sum ^ 2 - (s.map (· ^ 2)).sum := by
```
Comment (vlad902) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean]:
```suggestion
theorem two_mul_esymm_two {R : Type*} [CommRing R] (s : Multiset R) :
    2 * s.esymm 2 = s.sum ^ 2 - (s.map (· ^ 2)).sum := by
```

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 2]
```diff
@@ -84,15 +83,58 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
...
+theorem esymm_card (s : Multiset R) : s.esymm s.card = s.prod := by
+  simp [esymm]
+
+@[simp]
+theorem esymm_eq_zero_of_card_lt {s : Multiset R} {k : ℕ} (hk : s.card < k) : s.esymm k = 0 := by
+  simp [esymm, hk]
+
+private theorem esymm_map_inv_aux {R : Type*} [Field R] (s : Multiset R) : 0 ∉ s →
+    ∀ j k, s.card = j + k → (s.map (·⁻¹)).esymm k * s.prod = s.esymm j := by
+  induction s using Multiset.induction with
```
Comment (vlad902) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean]:
```suggestion
private theorem esymm_map_inv_aux {R : Type*} [Field R] (s : Multiset R) :
    0 ∉ s → ∀ j k, s.card = j + k → (s.map (·⁻¹)).esymm k * s.prod = s.esymm j := by
```

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 3]
```diff
@@ -84,15 +83,58 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
     rw [Function.comp_apply, (mem_powersetCard.1 hx).2]
   · simp_rw [smul_prod, esymm, powersetCard_map, map_map, Function.comp_def]
 
+theorem esymm_cons (a : R) (s : Multiset R) (k : ℕ) :
```
Comment (felixpernegger) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean:87]: Since https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Group/Finset/Basic.html#Finset.sum_cons is a simp lemma, i think this could be as well

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 4]
```diff
@@ -84,15 +83,58 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
...
+
+@[simp]
+theorem esymm_zero (s : Multiset R) : s.esymm 0 = 1 := by
+  simp [esymm]
+
+@[simp]
+theorem esymm_one (s : Multiset R) : s.esymm 1 = s.sum := by
+  simp [esymm, powersetCard_one]
+
 -- TODO: `Multiset.insert_eq_cons` being simp means that `esymm {x, y}` is not simp normal form
```
Comment (felixpernegger) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean]: i think this comment is now obsolete

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 5]
```diff
@@ -84,15 +83,58 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
...
+theorem esymm_eq_zero_of_card_lt {s : Multiset R} {k : ℕ} (hk : s.card < k) : s.esymm k = 0 := by
+  simp [esymm, hk]
+
+private theorem esymm_map_inv_aux {R : Type*} [Field R] (s : Multiset R) : 0 ∉ s →
+    ∀ j k, s.card = j + k → (s.map (·⁻¹)).esymm k * s.prod = s.esymm j := by
+  induction s using Multiset.induction with
+  | empty => grind [map_zero, esymm_zero, card_zero]
+  | cons a t _ =>
+    intro _ j k _
+    obtain _ | k := k
```
Comment (felixpernegger) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean]:
```suggestion
    cases k
```

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 6]
```diff
@@ -84,15 +83,58 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
...
+    · grind [esymm_zero, esymm_card, prod_cons]
+    obtain _ | j := j
+    · grind [esymm_zero, map_cons, card_cons, card_map, esymm_card, prod_map_inv', prod_cons,
+        prod_ne_zero]
+    · grind [map_cons, esymm_cons, prod_cons, card_cons]
+
+theorem esymm_map_inv {R : Type*} [Field R] {s : Multiset R} (h0 : 0 ∉ s) {n k : ℕ}
+    (hs : s.card = n) (hk : k ≤ n) : (s.map (·⁻¹)).esymm k * s.esymm n = s.esymm (n - k) := by
```
Comment (felixpernegger) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean]: Why do you need the `n`?

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 7]
```diff
@@ -84,15 +83,58 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
...
+  induction s using Multiset.induction with
+  | empty => grind [map_zero, esymm_zero, card_zero]
+  | cons a t _ =>
+    intro _ j k _
+    obtain _ | k := k
+    · grind [esymm_zero, esymm_card, prod_cons]
+    obtain _ | j := j
+    · grind [esymm_zero, map_cons, card_cons, card_map, esymm_card, prod_map_inv', prod_cons,
+        prod_ne_zero]
+    · grind [map_cons, esymm_cons, prod_cons, card_cons]
```
Comment (felixpernegger) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean:131]:
```suggestion
  induction s using Multiset.induction with
  | empty => grind [map_zero, card_zero]
  | cons a t _ =>
    intro _ j k _
    cases k
    · grind [esymm_zero, esymm_card]
    cases j
    · grind [esymm_zero, card_map, esymm_card, prod_map_inv', prod_ne_zero]
    · grind [map_cons, esymm_cons, prod_cons, card_cons]
```

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean (hunk 6 above)
Comment (teorth) [reply Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean]: Fair enough, I have simplified this theorem (and will modify its downstream use in the Newton identities)

**Review by felixpernegger — APPROVED** [review]

File: Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean [hunk 8]
```diff
@@ -84,15 +83,57 @@ lemma pow_smul_esymm {S : Type*} [Monoid S] [DistribMulAction S R] [IsScalarTowe
...
+@[simp]
+theorem esymm_card (s : Multiset R) : s.esymm s.card = s.prod := by
+  simp [esymm]
+
+@[simp]
+theorem esymm_eq_zero_of_card_lt {s : Multiset R} {k : ℕ} (hk : s.card < k) : s.esymm k = 0 := by
+  simp [esymm, hk]
+
+private theorem esymm_map_inv_aux {R : Type*} [Field R] (s : Multiset R) : 0 ∉ s →
+    ∀ j k, s.card = j + k → (s.map (·⁻¹)).esymm k * s.prod = s.esymm j := by
```
Comment (vlad902) [inline Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean]:
```suggestion
private theorem esymm_map_inv_aux {R : Type*} [Field R] (s : Multiset R) :
    0 ∉ s → ∀ j k, s.card = j + k → (s.map (·⁻¹)).esymm k * s.prod = s.esymm j := by
```
